US08471005B2
2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (50.00 mg, 0.174 mmol), methanesulfonic acid (0.034 mL, 0.52 mmol) and (S)-3-[4-(4-amino-3-methoxy-phenyl)-piperidin-1-yl]-1,1,1-trifluoro-propan-2-ol (109 mg, 0.342 mmol) were combined in 1-methoxy-2-propanol (1.02 mL) in a capped tube and the reaction was stirred at 135° C. for 48 h. The product was isolated by reverse phase preparative hplc (Gilson) followed by neutralization of the trifluoroacetic acid salt to afford (S)-1,1,1-trifluoro-3-(4-{3-methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-propan-2-ol as a brown solid (17 mg, 18%). MP: 77-94° C.; 1H-NMR (CDCl3) δ 8.69 (s, 1H), 8.30 (d, J=8.1 Hz, 1H), 7.99 (d, J=7.6 Hz, 1H), 7.44 (m, 2H), 7.14 (m, 1H), 7.08 (d, J=8.4 Hz, 1H), 7.02 (4.4 Hz, 1H), 6.83 (d, J=4.5 Hz, 1H), 6.71 (m, 2H), 4.08 (m, 1H), 3.90 (s, 3H), 3.85 (s, 3H), 3.02 (m, 2H), 2.67 (m, 2H), 2.52 (m, 2H), 2.23 (m, 1H), 1.77 (m, 3H); LC/MS (ESI+): 542.3 (M+H).

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.174 mmol, 50.00 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | methanesulfonic acid | 0.52 mmol, 0.034 mL | CS(=O)(=O)O | CH4O3S
reactant | (S)-3-[4-(4-amino-3-methoxy-phenyl)-piperidin-1-yl]-1,1,1-trifluoro-propan-2-ol | 0.342 mmol, 109 mg | NC1=C(C=C(C=C1)C1CCN(CC1)C[C@@H](C(F)(F)F)O)OC | C15H21F3N2O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1-methoxy-2-propanol | 1.02 mL | COCC(C)O | C4H10O2
product | (S)-1,1,1-trifluoro-3-(4-{3-methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-propan-2-ol | 17 mg, 18% | FC([C@H](CN1CCC(CC1)C1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)OC)O)(F)F | C28H30F3N5O3
